US06706732B1
A mixture of 5-(5-fluoro-2-methylphenyl)-cyclohexane-1,3-dione (1.5 g) and ammonium acetate (1.6 g) in butanol(30 ml) was combined with acetylacetone (2.0 g) and heated under reflux for 3 days. The solvent was distilled off under reduced pressure, and the residue was dissolved in ethyl acetate, washed successively with aqueous sodium hydrogen carbonate, water and saturated brine, and dried over magnesium sulfate. The mixture was concentrated under reduced pressure, and the residue was subjected to a column chromatography on a silica gel (ethyl acetate-hexane) to obtain 7-(5-fluoro-2-methylphenyl)-2,4-dimethyl-5,6,7,8-tetrahydroquinolin-5-one (1.2 g) as an oil.

reactant | 5-(5-fluoro-2-methylphenyl)-cyclohexane-1,3-dione | 1.5 g | FC=1C=CC(=C(C1)C1CC(CC(C1)=O)=O)C | C13H13FO2
reactant | ammonium acetate | 1.6 g | C(C)(=O)[O-].[NH4+]
reactant | acetylacetone | 2.0 g | C(C)(=O)CC(C)=O | C5H8O2
solvent | butanol | 30 ml | C(CCC)O | C4H10O
product | 7-(5-fluoro-2-methylphenyl)-2,4-dimethyl-5,6,7,8-tetrahydroquinolin-5-one | 1.2 g | FC=1C=CC(=C(C1)C1CC(C=2C(=CC(=NC2C1)C)C)=O)C | C18H18FNO
